US09260413B2
To a −78° C. solution of 320 mg (0.946 mmol) 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one in 5 ml pyridine was added 200 μl (1.18 mmol) triflic anhydride. The reaction was allowed to warm to rt over 60 min, then it was poured into 30 ml water, extracted with 100 ml CH2Cl2, dried over Na2SO4, and concentrated in vacuo. Purification by flash chromatography (12 g silica gel, 0-100% EtOAc:hexane) gave 373 mg (84%) of 3-{5-[(4-methoxybenzyl)oxy]-1-methyl-6-oxo -1,6-dihydropyrimidin-2-yl}phenyl trifluoromethanesulfonate. LCMS [M+H]+=470.9.

reactant | 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one | 0.946 mmol, 320 mg | OC=1C=C(C=CC1)C1=NC=C(C(N1C)=O)OCC1=CC=C(C=C1)OC | C19H18N2O4
reactant | triflic anhydride | 1.18 mmol, 200 μl | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | 30 ml | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-{5-[(4-methoxybenzyl)oxy]-1-methyl-6-oxo -1,6-dihydropyrimidin-2-yl}phenyl trifluoromethanesulfonate | 373 mg, 84% | FC(S(=O)(=O)OC1=CC(=CC=C1)C=1N(C(C(=CN1)OCC1=CC=C(C=C1)OC)=O)C)(F)F | C20H17F3N2O6S
